US07893056B2
A 100 mL, three-necked round-bottom flask was charged with cis-2,3-dimethylpiperazine (Helvetica Chimica Acta, 1994, 77, 1057-64) (1.781 g, 15.6 mmol). The flask was cooled in an ice bath, and a solution of methanesulfonic acid (2.02 mL, 31.2 mmol) in 1.4 mL of water was added slowly, maintaining the temperature below 40° C. The solution was cooled to 20° C., and 2 mL of ethanol was added. The pH was adjusted to 4 with 60% aqueous potassium acetate, and then benzyl chloroformate (2.08 mL, 14.8 mmol in 1 mL of THF) and potassium acetate solutions were simultaneously added dropwise with adjustment of the rate to maintain the reaction solution at pH 4, with cooling to maintain the temperature at 25° C. After the mixture was stirred an additional hour, the organic solvents were removed and the remaining aqueous solution was washed with ethyl acetate. The ethyl acetate wash was extracted with 1 M HCl twice to recover the desired product. The acid extracts were combined with the original aqueous solution, and the pH was adjusted to 11 by the addition of 6 N NaOH, with cooling to maintain temperature below 40° C. The aqueous solution was extracted with ethyl acetate, and the combined extracts were dried over magnesium sulfate and concentrated in vacuo to provide phenylmethyl cis-2,3-dimethyl-1-piperazinecarboxylate (enantiomeric mixture) as a yellow oil (1.77 g, 46%). LCMS: (M+H)+: 249.1.

reactant | cis-2,3-dimethylpiperazine | 15.6 mmol, 1.781 g | C[C@@H]1NCCN[C@@H]1C | C6H14N2
reactant | methanesulfonic acid | 31.2 mmol, 2.02 mL | CS(=O)(=O)O | CH4O3S
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | benzyl chloroformate | 14.8 mmol, 2.08 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 1.4 mL | O | H2O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | phenylmethyl cis-2,3-dimethyl-1-piperazinecarboxylate | 1.77 g, 46% | C[C@@H]1N(CCN[C@@H]1C)C(=O)OCC1=CC=CC=C1 | C14H20N2O2
